US04045576
2-Amino-5-benzoylphenylacetic Acid.
A mixture of 1.0 g. (0.004 mole) of 5-benzoylindolin-2-one and 30 ml. of 3N sodium hydroxide was refluxed for 0.5 hour. The reaction mixture was cooled, acidified to pH 6 with 3N hydrochloric acid and slightly acidic solution was extracted with chloroform. The chloroform extracts were dried (magnesium sulfate) and concentrated to a solid. Recrystallization from ethanol-water gave 0.9 g. (84.5%) of pure product which melted at 143°-145° C.

reactant | 5-benzoylindolin-2-one | 0.004 mole | C(C1=CC=CC=C1)(=O)C=1C=C2CC(NC2=CC1)=O | C15H11NO2
reactant | sodium hydroxide | 3N | [OH-].[Na+]
reactant | hydrochloric acid | 3N | Cl | ClH
product | 2-Amino-5-benzoylphenylacetic Acid | NC1=C(C=C(C=C1)C(C1=CC=CC=C1)=O)CC(=O)O | C15H13NO3
